US04221725
(A) 3-[3-(4-Methoxyphenyl)propyl]glutaric acid
4-(4-Methoxyphenyl)butyraldehyde (5.34 g) is reacted with cyanoacetic acid (5.15 g) and sodium hydroxide (2.74 g) in a mixture of glyme (50 ml) and water (60 ml). The mixture is treated with hydrochloric acid and processed as described in Example 2A to afford the title compound (2.1 g) which on crystallization from ethyl acetate-chloroform-hexane had a melting point of 71°-73° C.

reactant | 4-(4-Methoxyphenyl)butyraldehyde | 5.34 g | COC1=CC=C(C=C1)CCCC=O | C11H14O2
reactant | cyanoacetic acid | 5.15 g | C(#N)CC(=O)O | C3H3NO2
reactant | sodium hydroxide | 2.74 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | glyme | 50 ml | C(OC)COC | C4H10O2
solvent | water | 60 ml | O | H2O
product | 3-[3-(4-Methoxyphenyl)propyl]glutaric acid | 2.1 g | COC1=CC=C(C=C1)CCCC(CC(=O)O)CC(=O)O | C15H20O5
